US07691850B2
d) [((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine
To a stirred solution of ethyl[((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (0.80 g, 2.09 mmole) in MeOH (30 mL) and H2O (15 mL) at RT was added potassium carbonate (1.44 g, 10.5 mmole). After 18 h, the reaction contents were concentrated under reduced pressure and filtered through celite (EtOH) to give the title compound (0.59 g, 99%) as a light brown oil: LC-MS (ES) m/e 289 (M+H)+.

reactant | ethyl[((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 2.09 mmole, 0.80 g | C(C)OC(NC[C@H]1CN(CC1)CCC1=CC=NC2=CC=C(N=C12)OC)=O | C19H26N4O3
reactant | potassium carbonate | 10.5 mmole, 1.44 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | H2O | 15 mL | O | H2O
product | [((3S)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine | 0.59 g, 99% | COC=1N=C2C(=CC=NC2=CC1)CCN1C[C@@H](CC1)CN | C16H22N4O
